US05184847
4-(1,1,1-trifluoro-2-octyloxycarbonyl)phenyl 4'-n-undecylbiphenyl-4-carboxylate
Example 1s were repeated except that optically active 1,1,1-trifluoro-2-octanol was used in place of the 1,1,1-trifluoro-2-decanol used in example 1,1, and 4'-n-nonylbiphenyl-4-carboxylic acid, 4'-n-decylbiphenyl-4-carboxylic acid and 4'-n-undecylbiphenyl-4-carboxylic acid were used in place of the 4-n-decyloxybiphenylcarboxylic acid to obtain the titled compounds, respectively.

reactant | 1,1,1-trifluoro-2-octanol | FC(C(CCCCCC)O)(F)F | C8H15F3O
reactant | 4'-n-nonylbiphenyl-4-carboxylic acid | C(CCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C22H28O2
reactant | 4'-n-decylbiphenyl-4-carboxylic acid | C(CCCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C23H30O2
reactant | 4'-n-undecylbiphenyl-4-carboxylic acid | C(CCCCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H32O2
reactant | 4-n-decyloxybiphenylcarboxylic acid | C(CCCCCCCCC)OC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)O | C23H30O3
product | 4-(1,1,1-trifluoro-2-octyloxycarbonyl)phenyl 4'-n-undecylbiphenyl-4-carboxylate | C(CCCCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)C(=O)OC(C(F)(F)F)CCCCCC | C39H49F3O4
